US09169259B2
A suspension of 6-chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (1 g, 3.27 mmol), methylpyrrolidine-3-carboxylate (1.69 g, 13.1 mmol), triethylamine (1.32 g, 13.1 mmol) and cesium carbonate (4.26 g, 13.1 mmol) was heated to 180° C. for 2 h. The residue was purified by chromatography (silica gel, 200-300 mesh, dichloromethane:MeOH=20:1) to give 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)pyrrolidine-3-carboxylic acid (80 mg, 6%) as a red solid. LC-MS: 385 [M+1]+, tR=1.258 min

reactant | 6-chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 3.27 mmol, 1 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=C(C=C2)OC)OC | C13H12ClN5O2
reactant | methylpyrrolidine-3-carboxylate | 13.1 mmol, 1.69 g | COC(=O)C1CNCC1 | C6H11NO2
reactant | triethylamine | 13.1 mmol, 1.32 g | C(C)N(CC)CC | C6H15N
reactant | cesium carbonate | 13.1 mmol, 4.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)pyrrolidine-3-carboxylic acid | 80 mg, 6% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CC1)C(=O)O)C=CN2 | C18H20N6O4
